US08877782B2
N-Isopropyl-6-(5-methyl-3-p-tolyl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 250, 6-(5-methyl-3-p-tolyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (250 mg, 0.73 mmol) was converted, instead of 6-(5-methyl-3-m-tolyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester, to the title compound (210 mg, 78%) which was obtained as a white solid. MS: m/e=366.3 [M+H]+.

reactant | 6-(5-methyl-3-p-tolyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.73 mmol, 250 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=C(C=C1)C)=O | C19H18N2O4
reactant | 6-(5-methyl-3-m-tolyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C=1C=C(C=CC1)C)=O | C19H18N2O4
product | N-Isopropyl-6-(5-methyl-3-p-tolyl-isoxazol-4-ylmethoxy)-nicotinamide | 210 mg, 78% | C(C)(C)NC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=C(C=C1)C)=O | C21H23N3O3
